US08609644B2
Following the procedure described in Prepn. 68 and starting from 3β-hydroxyandrostane-6,17-dione (Prepn. 68, 0.50 g) and 3-(benzyloxycarbonylamino)-2,2-dimethylpropanoic acid (0.41 g), after purification by flash chromatography (SiO2; EtOAc:n-hexane 6:4) to give 3β-[(2,2-dimethyl)-3-(carbobenzyloxyamino)propionyloxy]-androstane-6,17-dione (0.81 g, 90%) was obtained. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.34 (5H, m), 5.07 (2H, s), 7.01 (1H, m), 4.57 (1H, m), 2.50-1.10 (22H, m), 1.10 (6H, s), 0.78 (3H, s), 0.70 (3H, s).

reactant | 3β-hydroxyandrostane-6,17-dione | 0.50 g | O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C19H28O3
reactant | 3-(benzyloxycarbonylamino)-2,2-dimethylpropanoic acid | 0.41 g | C(C1=CC=CC=C1)OC(=O)NCC(C(=O)O)(C)C | C13H17NO4
product | 3β-[(2,2-dimethyl)-3-(carbobenzyloxyamino)propionyloxy]-androstane-6,17-dione | 0.81 g, 90% | CC(C(=O)O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O)(CNC(=O)OCC1=CC=CC=C1)C | C32H43NO6
